US07842688B2
d) Benzyl 3-[4-(2-azidoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.880 g of benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-{3-oxo-4-[2-(toluene-4-sulphonyloxy)ethyl]-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy}piperidine-1-carboxylate and 0.532 g of sodium azide in 10 ml of N,N-dimethylformamide is stirred at 65° C. over 90 minutes. The reaction mixture is poured onto water (40 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are washed with brine (20 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.11 (1:2 EtOAc-heptane). Rt=5.82

reactant | benzyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-{3-oxo-4-[2-(toluene-4-sulphonyloxy)ethyl]-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy}piperidine-1-carboxylate | 0.880 g | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCOS(=O)(=O)C3=CC=C(C=C3)C)C2)C=C(C=C1)F | C46H46F2N2O10S
reactant | sodium azide | 0.532 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Benzyl 3-[4-(2-azidoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | N(=[N+]=[N-])CCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOC2=C(C=CC(=C2)F)F)C(=O)OCC2=CC=CC=C2)=O | C39H39F2N5O7
